US07498337B2
4-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
4-Methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg) was dissolved in tetrahydrofuran (10 mL), sodium hydride (60% in oil, 60 mg) was added and the mixture was stirred at room temperature for 15 min. 15-Crown-5 (0.30 mL) was added and the mixture was further stirred at the same temperature for 15 min. 3-Pyridinesulfonyl chloride hydrochloride (231 mg) was added and the reaction mixture was stirred at room temperature for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound as a colorless solid (yield 172 mg, 53%).

reactant | 4-Methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 15-Crown-5 | 0.30 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3-Pyridinesulfonyl chloride hydrochloride | 231 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 172 mg, 53% | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1)C=O | C17H14N2O3S
